US07468375B2
Step 2: 1-(4-Fluorobenzyl)-3-[(2-methoxyethoxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid
To a solution of methyl 1-(4-fluorobenzyl)-3-[(2-methoxyethoxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (542 mg 1.4645 mmol) in THF (10 mL) was added lithium hydroxide monohydrate (123 mg 2.929 mmol, 2 eq.) and water (5 mL) and the clear solution was warmed to 40° C. for 3 hours. THF was removed under vacuum and 1 M HCl added (2.93 mL 2.93 mmol, 2 eq.) the crude product was extracted into EtOAc (3×30 mL) then DCM:MeOH 100:5 (3×30 mL). The organics were dried (Na2SO4) volatiles were removed in vacuo to give the title product as a cream colored powder 400 mg (76%). LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, ESI, +mode): RT—1.753 min, m/e=359.1 (M+H+, base). 1H-NMR (300 MHz, CD3OD): δ=3.68 (s, 3H), 3.60 (m, 2H), 3.73 (m, 2H), 4.86 (s, 2H), 5.64 (s, 2H), 7.12 (m, 2H), 7.36 (m, 2H), 8.06 (s, 1H), 8.3 (s, 1H), 8.86 (s, 1H).

reactant | methyl 1-(4-fluorobenzyl)-3-[(2-methoxyethoxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 1.4645 mmol, 542 mg | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)COCCOC)C=C1 | C20H21FN2O4
reactant | lithium hydroxide monohydrate | 2.929 mmol, 123 mg, 2 eq. | O.[OH-].[Li+]
reactant | water | 5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluorobenzyl)-3-[(2-methoxyethoxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)COCCOC)C=C1 | C19H19FN2O4
